US07732448B2
0.09 g of sodium hydride (60% oil suspension) was suspended in 3 ml of tetrahydrofuran. 0.3 ml of tetrahydrofuran solution of 0.15 g of 2-butyn-1-ol was added dropwise at room temperature therein, and the mixture was stirred for 10 minutes. Into the mixture was added dropwise 0.3 ml of tetrahydrofuran solution of 0.40 g of 4,5-difluoro-6-(3,5-dimethylpiperidino)pyrimidine (cis/trans diastereomer=about 5/1) at room temperature, and stirred for 20 minutes at 0° C. The reaction mixture was poured into a saturated ammonium chloride aqueous solution, and the mixture was extracted with tert-butyl methyl ether three times. The organic layers were washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to obtain 0.46 g of 4-(2-butynyloxy)-5-fluoro-6-(3,5-dimethylpiperidino)pyrimidine (hereinafter, referred to as Compound (51)). Compound (51) had the cis/trans diastereomer originated two methyls on the pyperidine ring. The ratio of the cis/trans diastereomer was about 5/1.

reactant | sodium hydride | 0.09 g | [H-].[Na+]
reactant | 2-butyn-1-ol | 0.15 g | C(C#CC)O | C4H6O
reactant | 4,5-difluoro-6-(3,5-dimethylpiperidino)pyrimidine | 0.40 g | FC1=NC=NC(=C1F)N1CC(CC(C1)C)C | C11H15F2N3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.3 ml | O1CCCC1 | C4H8O
product | 4-(2-butynyloxy)-5-fluoro-6-(3,5-dimethylpiperidino)pyrimidine | 0.46 g | C(C#CC)OC1=NC=NC(=C1F)N1CC(CC(C1)C)C | C15H20FN3O
